US05620676
2-(5-Hexenylthio)adenosine hemihydrate:
2-Thioadenosine (0.2 g, 0.67 mmol) was dissolved in 0.25M NaOH (8 ml, 2 mmol). 6-Bromo-1-hexene (0.45 ml, 3.3 mmol) was added, and the solution was stirred at room temperature for 3 h. The reaction mixture was concentrated under reduced pressure (bath temp. 33° C.) and extracted with ether (2×2 ml). The aqueous phase was neutralized with 18% HCl and extracted with ethyl acetate (3×4 ml). The homogeneous product was obtained after drying and solvent removal as a yellowish solid (0.14 g, 55% yield, mp 94° C., trituration with ether). 1H NMR (CD3OD)d: 8.16 (s, 1H, H-8), 5.91 (d, J=5.8 Hz, 1H, H-1'), 5.8 (dm, 1H, olefinic), 4.93 (ddd, J=11, 9.7, 1 Hz, 2H, olefinic), 4.72 (`t`, 1H, J=5 Hz H-2'), 4.31 (m, 1H, H-3'), 4.11 (m, 1H, H-4'), 3.83 (m, 2H, H-5'), 3.16 (m, 2H, CH2S), 2.10 (m, 2H, CH2), 1.74 (m, 2H, CH2), 1.56 (m, 2H, CH2) ppm. Anal. calc. for C16H23N5O4S.0.5H2O: C, 49.22; H, 6.20; N, 17.93. Found: C, 49.46; H, 5.99; N, 17.36.

reactant | 2-Thioadenosine | 0.67 mmol, 0.2 g | C1=NC2=C(NC(=S)N=C2N1[C@H]3[C@@H]([C@@H]([C@H](O3)CO)O)O)N | C10H13N5O4S
reactant | NaOH | 2 mmol, 0.25M, 8 ml | [OH-].[Na+]
reactant | 6-Bromo-1-hexene | 3.3 mmol, 0.45 ml | BrCCCCC=C | C6H11Br
product | 2-(5-Hexenylthio)adenosine hemihydrate | 55% yield | O.C(CCCC=C)SC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N.C(CCCC=C)SC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N | InChI=1S/2C16H23N5O4S.H2O/c2*1-2-3-4-5-6-26-16-19-13(17)10-14(20-16)21(8-18-10)15-12(24)11(23)9(7-22)25-15;/h2*2,8-9,11-12,15,22-24H,1,3-7H2,(H2,17,19,20);1H2/t2*9-,11-,12-,15-;/m11./s1
